US07531585B2
Synthesis of zinc phenylphosphonate
In a glass ball mill container having a volume of 900 mL, 1000 g of 1 mmφ zirconia beads were charged, further 17.0 g (108 mmol) of phenylphosphonic acid (manufactured by Nissan Chemical industries, Ltd.), 8.78 g (108 mmol) of zinc oxide and 231 g of water were mixed, stirred at 170 rpm for 20 hours at room temperature. Then the slurry was separated from zirconia beads, and the separated slurry was filtered, and the wet cake was fully washed with water. Thereafter, the slurry was dried at 150° C. to obtain 23.4 g (yield 98%) of the aimed product as white crystal. The average particle diameter was 1.1 μm with a laser diffraction type particle size distribution meter (manufactured by Seishin Enterprise Co., Ltd., PRO-7000S).

reactant | phenylphosphonic acid | 108 mmol, 17.0 g | C1(=CC=CC=C1)P(O)(O)=O | C6H7O3P
reactant | zinc oxide | 108 mmol, 8.78 g | [O-2].[Zn+2]
solvent | water | 231 g | O | H2O
product | zinc phenylphosphonate | 23.4 g, yield 98% | C1(=CC=CC=C1)P([O-])([O-])=O.[Zn+2] | InChI=1S/C6H7O3P.Zn/c7-10(8,9)6-4-2-1-3-5-6;/h1-5H,(H2,7,8,9);/q;+2/p-2
